US05883106
1-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]cyclopropane-1-carboxamide
The titled compound was prepared according to the procedure described for 1-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]cyclobutane-1-carboxamide except that 1,2-dibromoethane was used in place of 1,3-dibromopropane (Example 20).

reactant | 1-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]cyclobutane-1-carboxamide | CC=1N(C=CN1)C1=CC=C(COC=2C=C(C=CC2)C2(CCC2)C(=O)N)C=C1 | C22H23N3O2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 1-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]cyclopropane-1-carboxamide | CC=1N(C=CN1)C1=CC=C(COC=2C=C(C=CC2)C2(CC2)C(=O)N)C=C1 | C21H21N3O2
